US07777047B2
7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indole-2-carboxylic acid
A mixture of ethyl 1-(methoxymethyl)-7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indole-2-carboxylate (10.9 g), 6N-hydrochloric acid (50 mL), tetrahydrofuran (50 mL) and methanol (50 mL) was stirred at 90° C. for 24 hr. The organic solvent of the reaction solution was evaporated under reduced pressure, and the residue was diluted with ethyl acetate. The solution was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in a mixed solvent of tetrahydrofuran (50 mL)-methanol (50 mL), aqueous potassium hydroxide solution (prepared by dissolving potassium hydroxide (4.2 g) in water (30 mL)) was added to this solution, and the mixture was stirred at room temperature for 15 hr. The reaction solution was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained pale-brown crystals were filtered off, and washed with ethyl acetate-hexane. The filtrate was concentrated under reduced pressure, and the obtained crystals were washed with ethyl acetate-hexane to give the title compound (6.47 g, crude yield: 71%) as pale-yellow crystals. MS: 361 (MH+).

reactant | ethyl 1-(methoxymethyl)-7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indole-2-carboxylate | 10.9 g | COCN1C(=CC2=CC=CC(=C12)N(C)S(=O)(=O)C1=C(C=CC=C1)OC)C(=O)OCC | C21H24N2O6S
reactant | hydrochloric acid | 50 mL | Cl | ClH
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 7-[[(2-methoxyphenyl)sulfonyl](methyl)amino]-1H-indole-2-carboxylic acid | 6.47 g | COC1=C(C=CC=C1)S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C(=O)O)C | C17H16N2O5S
